US04528400
This invention will be useful in reactions like: benzophenone and pivalic acid to obtain t-butyl phenyl ketone; 1,3-dichloroacetone and pivalic acid to obtain monochloropinacolone; and cyclopentanone and acetic acid to obtain 2,7-octanedione.

reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
product | t-butyl phenyl ketone | C1(=CC=CC=C1)C(=O)C(C)(C)C | C11H14O
